US05541219
A stirring suspension of magnesium turnings (3.45 g) in dry tetrahydrofuran (60 mL) is treated with 1,2-dibromoethane (0.8 mL), and the mixture is stirred under a nitrogen atmosphere for 30 minutes. It is then treated dropwise with a solution of 4-bromo-2-cyclopentyloxyanisole (25 g); which is prepared as described in Reference Example 4 in tetrahydrofuran (20 mL), and the resulting solution is heated at reflux for 30 minutes. The solution is then cooled to room temperature and treated with a solution of tetrahydrothiophen-3-one (6.9 mL) in tetrahydrofuran (20 mL), and allowed to stand for 16 hours. It is then treated with saturated aqueous ammonium chloride solution (50 mL), and the mixture is partitioned between water (100 mL) and dichloromethane (100 mL). The aqueous phase is further extracted with dichloromethane (100 mL). The combined organic phases are dried over magnesium sulphate and evaporated. The resulting residue is subjected to flash chromatography on silica gel, using a mixture of ethyl acetate and toluene as eluent to give 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-hydroxytetrahydrothiophene, in the form of a viscous oil.

reactant | magnesium | 3.45 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 0.8 mL | BrCCBr | C2H4Br2
reactant | 4-bromo-2-cyclopentyloxyanisole | 25 g | BrC1=CC(=C(C=C1)OC)OC1CCCC1 | C12H15BrO2
reactant | tetrahydrothiophen-3-one | 6.9 mL | S1CC(CC1)=O | C4H6OS
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-hydroxytetrahydrothiophene | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CSCC1)O | C16H22O3S
